US04053601
i. 3-Chloro-6-(2,4-dihydroxyphenyl)pyridazine (4.0 g, 0.18 mole), dimethyl sulphate (2.55 g, 0.0201 mole), potassium carbonate (10.0 g, 0.072 mole) and dry acetone (100 ml) were stirred at room temperature for 20 hours. The reaction mixture was filtered and the inorganic residue was washed with more acetone. Evaporation of the combined filtrates gave a brown residue which was extracted wth dilute sodium hydroxide solution. The aqueous extract was washed with dichloromethane, treated with charcoal, filtered and acidified. The resulting precipitate was collected, washed with water and crystallised from ethanol to give 3-chloro-6-(2-hydroxy-4-methoxyphenyl)-pyridazine (2.2 g, 49%; m.p. 156°-157°).

reactant | 3-Chloro-6-(2,4-dihydroxyphenyl)pyridazine | 0.18 mole, 4.0 g | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)O)O | C10H7ClN2O2
reactant | dimethyl sulphate | 0.0201 mole, 2.55 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.072 mole, 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-chloro-6-(2-hydroxy-4-methoxyphenyl)-pyridazine | 2.2 g, 49% | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)OC)O | C11H9ClN2O2
